### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/Complex/CircleMap): some basic facts about `circleMap`

### PR DESCRIPTION
**Pull request by fbarroero**
We move the definition of `circleMap` and some relative theorems to a new file. We also add some basic facts about it.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mans0954** [comment]
@fbarroero perhaps we could also have something like:
```
lemma circleMap_zero_nat_pow_mul {n : ℕ} {R θ : ℝ} : circleMap 0 (R^n) (θ * n) = (circleMap 0 R θ)^n := by
  rw [circleMap_zero, circleMap_zero, mul_pow, ← exp_nat_mul, mul_comm θ, ← mul_assoc, ofReal_pow,
    ofReal_mul, ofReal_natCast]
```
?

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 1]
```diff
@@ -87,6 +84,33 @@ def circleMap (c : ℂ) (R : ℝ) : ℝ → ℂ := fun θ => c + R * exp (θ * I
 theorem periodic_circleMap (c : ℂ) (R : ℝ) : Periodic (circleMap c R) (2 * π) := fun θ => by
   simp [circleMap, add_mul, exp_periodic _]
 
+lemma circleMap_eq_circleMap_iff_exists_int {a b R : ℝ} {c : ℂ} (h_R : R ≠ 0) :
+    circleMap c R a = circleMap c R b ↔ ∃ (n : ℤ) , a * I = b * I + n * (2 * π * I) := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:88]: I think `c` should be explicit here. Also note the spacing. I think we can afford a shorter name, what do you think of `circleMap_eq_circleMap_iff`?
```suggestion
lemma circleMap_eq_circleMap_iff {a b R : ℝ} (c : ℂ) (h_R : R ≠ 0) :
    circleMap c R a = circleMap c R b ↔ ∃ (n : ℤ), a * I = b * I + n * (2 * π * I) := by
```

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 2]
```diff
@@ -87,6 +84,33 @@ def circleMap (c : ℂ) (R : ℝ) : ℝ → ℂ := fun θ => c + R * exp (θ * I
...
+  have : circleMap c R a = circleMap c R b  ↔ (exp (a * I)).arg = (exp (b * I)).arg := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:89]:
```suggestion
  have : circleMap c R a = circleMap c R b ↔ (exp (a * I)).arg = (exp (b * I)).arg := by
```

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 3]
```diff
@@ -87,6 +84,33 @@ def circleMap (c : ℂ) (R : ℝ) : ℝ → ℂ := fun θ => c + R * exp (θ * I
...
+    simp [circleMap, ext_norm_arg_iff, h_R]
+  simp [this, arg_eq_arg_iff, exp_eq_exp_iff_exists_int]
+
+lemma eq_of_circleMap_eq {a b R : ℝ} {c : ℂ} (h_R : R ≠ 0) (h_dist : |a - b| < 2 * π)
+    (h : circleMap c R a = circleMap c R b) : a = b := by
+  rw [circleMap_eq_circleMap_iff_exists_int h_R] at h
+  obtain ⟨n, hn⟩ := h
+  simp only [show n * (2 * π * I) = (n * 2 * π) * I by ring, ← add_mul, mul_eq_mul_right_iff,
+    Complex.I_ne_zero, or_false] at hn
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:98]:
```suggestion
    I_ne_zero, or_false] at hn
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

**Comment by EtienneC30** [comment]
It seems unsatisfying to have results about `circleMap` spread across many files. Can you create a new file in `SpecialFunctions` and put in there the definition and the results which are in the files `Exp` and `Log` please?

**Comment by fbarroero** [comment]
> It seems unsatisfying to have results about `circleMap` spread across many files. Can you create a new file in `SpecialFunctions` and put in there the definition and the results which are in the files `Exp` and `Log` please?

Sure! It makes sense. I am going to do it as soon as I have time. Thanks

**Comment by fbarroero** [comment]
> It seems unsatisfying to have results about `circleMap` spread across many files. Can you create a new file in `SpecialFunctions` and put in there the definition and the results which are in the files `Exp` and `Log` please?

Done!

**Comment by dupuisf** [comment]
I don't think centralizing everything in one big file was a great move, since the new file has massive imports. For instance, the file in which `circleMap` was originally defined had no measure theory at all in its imports. I know it's a bit annoying, but I think this should be rolled back.

**Comment by EtienneC30** [comment]
I specifically said that the results in the files exp and log should be merged, not those in circleIntegral, precisely because of the imorts. I still think it is a good idea. I do not think there is any point for instance to put the definition in one file and have all the lemmas in another one, if one wants to use the function then they'll need lemmas so they'll have to import the other file anyway.

**Comment by fbarroero** [comment]
> I specifically said that the results in the files exp and log should be merged, not those in circleIntegral, precisely because of the imorts. I still think it is a good idea. I do not think there is any point for instance to put the definition in one file and have all the lemmas in another one, if one wants to use the function then they'll need lemmas so they'll have to import the other file anyway.

Apologies! I misunderstood. I’m gonna fix it later today.

**Comment by fbarroero** [comment]
Done! I didn't move back a couple of lemmas that did not need any advanced imports. Now the file only imports `Analysis.SpecialFunctions.Complex.Log`.

**Comment by EtienneC30** [comment]
Nice! I'll have a look later today.

File: Mathlib/Analysis/SpecialFunctions/Exp.lean [hunk 4]
```diff
@@ -493,44 +493,3 @@ open Complex in
...
-@[simp]
-theorem circleMap_zero_radius (c : ℂ) : circleMap c 0 = const ℝ c :=
-  funext fun _ => circleMap_eq_center_iff.2 rfl
-
-theorem circleMap_ne_center {c : ℂ} {R : ℝ} (hR : R ≠ 0) {θ : ℝ} : circleMap c R θ ≠ c :=
-  mt circleMap_eq_center_iff.1 hR
-
-open Complex in
-lemma circleMap_zero_int_mul (R θ : ℝ) (n : ℤ) :
-    circleMap 0 (R^n) (n * θ) = (circleMap 0 R θ)^n := by
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Exp.lean:534]: You changed this lemma so you should add a deprecated alias below the new version in `CircleMap`.

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleMap.lean [hunk 5]
```diff
@@ -0,0 +1,132 @@
...
+def circleMap (c : ℂ) (R : ℝ) : ℝ → ℂ := fun θ => c + R * exp (θ * I)
+
+@[simp]
+theorem circleMap_sub_center (c : ℂ) (R : ℝ) (θ : ℝ) : circleMap c R θ - c = circleMap 0 R θ := by
+  simp [circleMap]
+
+theorem circleMap_zero (R θ : ℝ) : circleMap 0 R θ = R * exp (θ * I) := zero_add _
+
+@[simp]
+theorem norm_circleMap_zero (R : ℝ) (θ : ℝ) : ‖circleMap 0 R θ‖= |R| := by simp [circleMap]
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Complex/CircleMap.lean:35]: Not your mistake but can you fix this please?
```suggestion
theorem norm_circleMap_zero (R : ℝ) (θ : ℝ) : ‖circleMap 0 R θ‖ = |R| := by simp [circleMap]
```

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleMap.lean [hunk 6]
```diff
@@ -0,0 +1,132 @@
...
+  apply eq_of_circleMap_eq h_R _ h
+  rw [abs_lt]
+  constructor <;> linarith [max_sub_min_eq_abs' a b]
+
+theorem circleMap_not_mem_ball (c : ℂ) (R : ℝ) (θ : ℝ) : circleMap c R θ ∉ ball c R := by
+  simp [Complex.dist_eq, le_abs_self]
+
+theorem circleMap_ne_mem_ball {c : ℂ} {R : ℝ} {w : ℂ} (hw : w ∈ ball c R) (θ : ℝ) :
+    circleMap c R θ ≠ w :=
+  (ne_of_mem_of_not_mem hw (circleMap_not_mem_ball _ _ _)).symm
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Complex/CircleMap.lean:130]: Can you move those two up in the file please? In the part about spheres etc.

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleMap.lean [hunk 7]
```diff
@@ -0,0 +1,132 @@
...
+  simp [circleMap, Complex.exp_ne_zero]
+
+@[simp]
+theorem circleMap_zero_radius (c : ℂ) : circleMap c 0 = const ℝ c :=
+  funext fun _ => circleMap_eq_center_iff.2 rfl
+
+theorem circleMap_ne_center {c : ℂ} {R : ℝ} (hR : R ≠ 0) {θ : ℝ} : circleMap c R θ ≠ c :=
+  mt circleMap_eq_center_iff.1 hR
+
+lemma circleMap_mul (R₁ R₂ θ₁ θ₂ : ℝ) :
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Complex/CircleMap.lean:60]: I think this name is better. If you agree can you make the change to similar results below?
```suggestion
lemma circleMap_zero_mul (R₁ R₂ θ₁ θ₂ : ℝ) :
```

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleMap.lean [hunk 8]
```diff
@@ -0,0 +1,132 @@
...
+  norm_cast at hn
+  simp only [hn, Int.cast_mul, Int.cast_ofNat, mul_assoc, add_sub_cancel_left, abs_mul,
+    Nat.abs_ofNat, abs_of_pos Real.pi_pos] at h_dist
+  field_simp at h_dist
+  norm_cast at h_dist
+  simp [hn, Int.abs_lt_one_iff.mp h_dist]
+
+/-- `circleMap` is injective on `Ι a b` if the distance between `a` and `b` is at most `2π`. -/
+theorem injOn_circleMap_of_abs_sub_le {a b R : ℝ} {c : ℂ} (h_R : R ≠ 0) (_ : |a - b| ≤ 2 * π) :
+    (Ι a b).InjOn (circleMap c R) := by
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Complex/CircleMap.lean:119]: Maybe we can have a version for `Ico` as well?

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge
